US04859684
A mixture of 5.6 parts of 4-(1H-imidazol-1-ylmethyl)-N1 -(3-pyridinylmethyl)-1,2-benzenediamine, 20 parts of triethoxyethane, 2 parts of acetic acid and 200 parts of methanol was stirred for 2 hours at reflux temperature. The reaction mixture was evaporated. Methanol and methanol, saturated with ammonia, were added. The mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (88:10:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 40 parts of 4-methyl-2-pentanone. The product was filtered off and dried, yielding 2.5 parts (41%) of 5-(1H-imidazol-1-yl-methyl)-2-methyl-1-(3-pyridinylmethyl)-1H-benzimidazole; mp. 174.0° C. (compound 116).

reactant | 4-(1H-imidazol-1-ylmethyl)-N1 -(3-pyridinylmethyl)-1,2-benzenediamine | N1(C=NC=C1)CC=1C=C(C(=CC1)NCC=1C=NC=CC1)N | C16H17N5
reactant | triethoxyethane | C(C)OC(C)(OCC)OCC | C8H18O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 5-(1H-imidazol-1-yl-methyl)-2-methyl-1-(3-pyridinylmethyl)-1H-benzimidazole | 41% | N1(C=NC=C1)CC1=CC2=C(N(C(=N2)C)CC=2C=NC=CC2)C=C1 | C18H17N5
